US05837708
92 mg of NaH (65%) were added at room temperature to a solution of 162.5 mg of 4-amino-6-methoxy-5-(2-methoxy-phenoxy)-2,2'-bipyrimidine in 10 ml of tetrahydrofuran, the solution was stirred at room temperature for 11/2 hours and subsequently 162.5 mg of 5-tert-butyl-thiophene-2-sulphonyl chloride were added at the same temperature. The mixture was stirred at room temperature for a further 2 hours, poured on to ice/water, extracted with ethyl acetate, the aqueous phase was acidified and extracted with methylene chloride. The combined, organic phases were dried over magnesium sulphate and concentrated on a rotary evaporator. The residue was chromatographed over silica gel with methylene chloride/methanol (20/1) as the eluent. 5-tert-Butyl-N-[6-methoxy-5-(2-methoxy-phenoxy)-2,2'-bipyrimidin-4-yl]-thiophene-2-sulphonamide was obtained as a yellow powder. MS: 463 (M-SO2).

reactant | NaH | 92 mg | [H-].[Na+]
reactant | 4-amino-6-methoxy-5-(2-methoxy-phenoxy)-2,2'-bipyrimidine | 162.5 mg | NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OC)C1=NC=CC=N1 | C16H15N5O3
reactant | 5-tert-butyl-thiophene-2-sulphonyl chloride | 162.5 mg | C(C)(C)(C)C1=CC=C(S1)S(=O)(=O)Cl | C8H11ClO2S2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-tert-Butyl-N-[6-methoxy-5-(2-methoxy-phenoxy)-2,2'-bipyrimidin-4-yl]-thiophene-2-sulphonamide | C(C)(C)(C)C1=CC=C(S1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OC)C1=NC=CC=N1 | C24H25N5O5S2
